US04663319
Ethyl 1-benzyl-5-(1,3-dithiol-2-ylidene)-4,6-dioxopiperidine-3-carboxylate (2.0 g) is dissolved in ethanol (160 ml), and a 10% aqueous sodium hydroxide solution (8.0 ml) is added thereto. The mixture is refluxed for 2 hours. The mixture is cooled, neutralized with 10% hydrochloric acid, and then evaporated under reduced pressure to remove the solvent. The residue is dissolved in ethyl acetate, and the solution is washed with water, dried and then evaporated to remove the solvent. The residue thus obtained is recrystallized from isopropanol, whereby 1-benzyl-3-(1,3-dithiol-2-ylidene)-2,4-dioxopiperidine (1.26 g) is obtained as pale yellow needles. Yield: 78%.

reactant | Ethyl 1-benzyl-5-(1,3-dithiol-2-ylidene)-4,6-dioxopiperidine-3-carboxylate | 2.0 g | C(C1=CC=CC=C1)N1CC(C(C(C1=O)=C1SC=CS1)=O)C(=O)OCC | C18H17NO4S2
reactant | sodium hydroxide | 8.0 ml | [OH-].[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | ethanol | 160 ml | C(C)O | C2H6O
product | 1-benzyl-3-(1,3-dithiol-2-ylidene)-2,4-dioxopiperidine | 1.26 g, Yield: 78% | C(C1=CC=CC=C1)N1C(C(C(CC1)=O)=C1SC=CS1)=O | C15H13NO2S2
